US08124606B2
Compound 89A: (R)-methyl 6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazine-3-carboxylate:
To a suspension of (R)-thiomorpholine-3-carboxylic acid (1.009 g, 6.86 mmol) in THF was added methyl 6-chloro-5-nitronicotinate (1.35 g, 6.23 mmol) and potassium carbonate (2.58 g, 18.70 mmol). The suspension was heated to reflux for 3 hours. The crude orange solution was allowed to cool to RT and filtered through a pad of celite which was washed with DCM (50 mL), and transferred to a bomb hydroginator. To the solution was added triphenyl phosphite (0.019 ml, 0.061 mmol), platinum (0.238 g, 0.061 mmol), and ammonium metavanadate. The vessel was sealed and pressurized to 140 psi with stirring for 24 h at room temperature. The vessel was depressurized and the mixture was diluted with DCM (100 mL) and refluxed for 30 minutes. The hot mixture was filtered through celite and concentrated to yield 887 mg (52%) of the product as a white solid. [M+H] calc'd for C12H13N3O3S, 280. found, 280.

reactant | (R)-thiomorpholine-3-carboxylic acid | 6.86 mmol, 1.009 g | N1[C@@H](CSCC1)C(=O)O | C5H9NO2S
reactant | methyl 6-chloro-5-nitronicotinate | 6.23 mmol, 1.35 g | ClC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H5ClN2O4
reactant | potassium carbonate | 18.70 mmol, 2.58 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | platinum | 0.061 mmol, 0.238 g | [Pt] | Pt
catalyst | ammonium metavanadate | [NH4+].[O-][V](=O)=O
catalyst | triphenyl phosphite | 0.061 mmol, 0.019 ml | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
product | (R)-methyl 6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazine-3-carboxylate | 887 mg, 52% | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)C(=O)OC)CCSC2 | C12H13N3O3S
